US07507729B2
b) (3-Trifluoromethyl-pyridin-2-yloxy)-acetic hydrazide
As described for example 112a, (3-trifluoromethyl-pyridin-2-yloxy)-acetic acid ethyl ester in ethanol was reacted with hydrazine hydrate (1.2 equivalents) at rt for 72 h. The mixture was concentrated and crystallized from ethanol/diisopropylether and the compound was obtained as a white solid (yield: 77%). MS: m/e=236.2 [M+H]+.

reactant | (3-trifluoromethyl-pyridin-2-yloxy)-acetic acid ethyl ester | C(C)OC(COC1=NC=CC=C1C(F)(F)F)=O | C10H10F3NO3
reactant | hydrazine hydrate | 1.2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (3-Trifluoromethyl-pyridin-2-yloxy)-acetic hydrazide | yield: 77% | FC(C=1C(=NC=CC1)OCC(=O)NN)(F)F | C8H8F3N3O2
